US08629158B2
b) tert-Butyl 3-(2-(6-bromopyridin-2-yl)-2-methylhydrazono)-9-azabicyclo[3.3.1]nonane-9-carboxylate
tert-Butyl 3-(2-(6-bromopyridin-2-yl)hydrazono)-9-azabicyclo[3.3.1]nonane-9-carboxylate (609 mg, 1.49 mmol) was dissolved in DMF, and NaH (60%, 65 mg, 1.63 mmol) was added. After 30 min, MeI (232 mg, 1.63 mmol, 102 μL) was added, and stirring continued for 30 min. The mixture was poured into water and extracted with ethyl acetate. The ethyl acetate was concentrated to provide the crude product (655 mg, >100%) as a red oil: ESI MS m/z 423 [M+H]+.

reactant | tert-Butyl 3-(2-(6-bromopyridin-2-yl)hydrazono)-9-azabicyclo[3.3.1]nonane-9-carboxylate | 1.49 mmol, 609 mg | BrC1=CC=CC(=N1)NN=C1CC2CCCC(C1)N2C(=O)OC(C)(C)C | C18H25BrN4O2
reactant | NaH | 1.63 mmol, 65 mg | [H-].[Na+]
reactant | MeI | 1.63 mmol, 102 μL, 232 mg | CI | CH3I
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(2-(6-bromopyridin-2-yl)-2-methylhydrazono)-9-azabicyclo[3.3.1]nonane-9-carboxylate | 655 mg, >100% | BrC1=CC=CC(=N1)N(N=C1CC2CCCC(C1)N2C(=O)OC(C)(C)C)C | C19H27BrN4O2
